US04122269
161 g (1 mole) of 1,3,6-tricyanohexane and 277.2 g (3.3 moles) of dicyandiamide were added to 750 g of dimethyl sulfoxide as the reaction medium, followed by further addition of 68 g (1 mole) of sodium methylate as the catalyst. The mixture was stirred under heating at 130° C for 3 hours in a nitrogen atmosphere. After completion of the reaction the reaction mixture was cooled to 25° C to precipitate the reaction product, followed by separating the crude reaction product by filtration. Purification was conducted by dissolving the crude product in excess amount of dimethyl sulfoxide at 135° C and then precipitating the product by cooling. After repeating this procedure 5 times, 292 g of 1,3,6-tris(4,6-diamino-1,3,5-triazine-2-yl)hexane as a white powder were obtained.

reactant | 1,3,6-tricyanohexane | 1 mole, 161 g | C(#N)CCC(CCCC#N)C#N | C9H11N3
reactant | dicyandiamide | 3.3 moles, 277.2 g | C(#N)N=C(N)N | C2H4N4
reactant | sodium methylate | 1 mole, 68 g | C[O-].[Na+]
solvent | dimethyl sulfoxide | 750 g | CS(=O)C | C2H6OS
product | 1,3,6-tris(4,6-diamino-1,3,5-triazine-2-yl)hexane | 292 g | NC1=NC(=NC(=N1)N)CCC(CCCC1=NC(=NC(=N1)N)N)C1=NC(=NC(=N1)N)N | C15H23N15
